US07741321B2
Step f: 1-(Benzo[d][1,3]dioxol-5-yl)-N-(6-(4-(2-methylpyrrolidin-1-ylsulfonyl)phenyl)pyridin-2-yl)cyclopropanecarboxamide
4-(6-(1-(Benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)pyridin-2-yl)benzene-1-sulfonyl chloride (˜35 μmol, 400 μl solution in chloroform) was treated with 2-methylpyrrolidine followed by the addition of DIEA (100 μl). The reaction mixture was kept at room temperature for 1 h, concentrated, then diluted with DMSO (400 μl). The resulting solution was subjected to HPLC purification. Fractions containing the desired material were combined and concentrated in vacuum centrifuge at 40° C. to provide the trifluoroacetic salt of target material (ESI-MS m/z calc. 505.0. found 505.9 (M+1), retention time 4.06 min). 1H NMR (250 MHz, DMSO-d6) δ 1.15 (m. 2H), δ 1.22 (d, 3H, J=6.3 Hz), δ 1.41-1.47 (m, 2H), δ 1.51 (m, 2H), δ 1.52-1.59 (m, 2H), δ 3.12 (m, 1H), δ 3.33 (m, 1H), δ 3.64 (m, 1H), δ 6.07 (s, 2H), δ 6.96-7.06 (m, 2H), δ 7.13 (d, 1H, J=1.3 Hz), δ 7.78 (d, 1H, J=8.2 Hz), δ 7.88 (d, 2H, J=8.5 Hz), δ 7.94 (t, 1H, J=8.2 Hz), δ 8.08 (d, 1H, J=8.2 Hz), δ 8.16 (d, 2H, J=8.5 Hz), δ 8.53 (s, 1H).

reactant | 4-(6-(1-(Benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)pyridin-2-yl)benzene-1-sulfonyl chloride | ˜35 μmol, 400 μl | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC=CC(=N2)C2=CC=C(C=C2)S(=O)(=O)Cl | C22H17ClN2O5S
reactant | 2-methylpyrrolidine | CC1NCCC1 | C5H11N
solvent | DIEA | 100 μl | CCN(C(C)C)C(C)C | C8H19N
product | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(6-(4-(2-methylpyrrolidin-1-ylsulfonyl)phenyl)pyridin-2-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=NC(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)N2C(CCC2)C | C27H27N3O5S
